US08633186B2
2-(3-Methoxypropoxy)-6-nitrobenzonitrile
Prepared as in Example 111c from 3-methoxypropan-1-ol and 2,6-dinitrobenzonitrile in 63.6% yield. 1H NMR (400 MHz, CDCl3) δ 2.16 (m, 2H), 3.36 (s, 3H), 3.63 (t, J=5.6 Hz, 2H), 4.29 (t, J=6.4 Hz, 2H), 7.35 (dd, J=8.8, 0.8 Hz, 1H), 7.69 (t, J=8.8 Hz, 1H), (dd, J=8.4, 0.8 Hz, 1H).

reactant | 3-methoxypropan-1-ol | COCCCO | C4H10O2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(3-Methoxypropoxy)-6-nitrobenzonitrile | 63.6% yield | COCCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C11H12N2O4
